US04107310
Using the procedure of Step A of Example 6, 40.28 g of o-trifluoromethyl aniline and 42.5 g of phenylacetyl chloride were reacted in the presence of 27.83 g of triethylamine in 400 ml of benzene to obtain 29.85 g of N-(2-trifluoromethylphenyl)-benzeneacetamide melting at 104° C after crystallization from hexane which was used as is for the next step.

reactant | o-trifluoromethyl aniline | 40.28 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | phenylacetyl chloride | 42.5 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 27.83 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | N-(2-trifluoromethylphenyl)-benzeneacetamide | 29.85 g | FC(C1=C(C=CC=C1)NC(CC1=CC=CC=C1)=O)(F)F | C15H12F3NO
